US05663200
6b) 5(S)-(Boc-Amino)-4(S)-hydroxy-6-phenyl-2(R)-{[p-(2,6-dichlorobenzylsulfonyl)phenyl]methyl}hexanoic acid
In analogy with Example 5e), 6.7 g (10.83 mmol) of 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-{[p-(2,6-dichlorobenzylsulfonyl)phenyl]methyl}dihydrofuran-2-(3H)-one in 170 ml of dimethoxyethane are hydrolysed with 43.3 ml of a 1M lithium hydroxide solution (RT, 17 h). Partitioning between 3× methylene chloride, NH4Cl/citric acid solution and saline, and stirring the crude product in ether, affords the title compound: tRet (II)=15.5 min.

reactant | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-{[p-(2,6-dichlorobenzylsulfonyl)phenyl]methyl}dihydrofuran-2-(3H)-one | 10.83 mmol, 6.7 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=CC=C(C=C1)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl | C31H33Cl2NO6S
reactant | lithium hydroxide | 1M | [OH-].[Li+]
solvent | dimethoxyethane | 170 ml | C(OC)COC | C4H10O2
product | 5(S)-(Boc-Amino)-4(S)-hydroxy-6-phenyl-2(R)-{[p-(2,6-dichlorobenzylsulfonyl)phenyl]methyl}hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)O)CC1=CC=CC=C1 | C31H35Cl2NO7S
